US04438128
1-(2,5-Dichlorophenoxy)-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propan-2-ol
This compound is obtained, in a manner analogous to that described in Example 17, from 2,5-dichlorophenyl glycidyl ether and N-(2,6-dimethylphenyl)-ethylenediamine, the base obtained crystallizing. The desired product is obtained in a yield of 4.2 g. (55% of theory) in the form of colorless crystals which, after recrystallization from diethyl ether-ligroin, melt at 66°-68° C.

reactant | 2,5-dichlorophenyl glycidyl ether | C(C1CO1)OC1=C(C=CC(=C1)Cl)Cl | C9H8Cl2O2
reactant | N-(2,6-dimethylphenyl)-ethylenediamine | CC1=C(C(=CC=C1)C)NCCN | C10H16N2
product | 1-(2,5-Dichlorophenoxy)-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propan-2-ol | ClC1=C(OCC(CNCCNC2=C(C=CC=C2C)C)O)C=C(C=C1)Cl | C19H24Cl2N2O2
